US09340538B2
Step B: 2-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxamido)acetic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-((2-((2-ethoxy-2-oxoethyl)carbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.5 g, 0.8 mmol) was reacted with sodium hydroxide (0.32 g, 8 mmol) according to the procedure as described in Example 58, Step B to give the title compound as a yellow solid (0.43 g, 88%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-((2-((2-ethoxy-2-oxoethyl)carbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.8 mmol, 0.5 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1CC(OCC1)C(NCC(=O)OCC)=O)C=1SC=CN1 | C26H29BrFN5O6S
reactant | sodium hydroxide | 8 mmol, 0.32 g | [OH-].[Na+]
product | 2-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxamido)acetic acid | 0.43 g, 88% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1CC(OCC1)C(=O)NCC(=O)O)C(=O)OCC | C24H25BrFN5O6S
